US09085576B2
A solution of (E)-8-benzylidene-3-bromo-5,6,7,8-tetrahydroquinoline (0.82 g, 2.5:1 mixture with benzaldehyde) in MeOH (40 mL) and DCM (40 mL) was cooled to −78° C. and ozone was bubbled through the solution for 5 min until the solution turned light blue. Oxygen was passed through the solution for 10 min until the solution turned colorless and triphenylphosphine (1.03 g, 3.93 mmol) was added. The solution was removed from the dry ice/acetone bath and allowed to warm to RT. The reaction mixture was stirred at RT for 1 h. The reaction mixture was concentrated. Purification by flash column chromatography on silica gel eluting with 30% to 70% EtOAc in heptane) gave 3-bromo-6,7-dihydroquinolin-8(5H)-one (0.460 g, 2.04 mmol, 75% yield) as a white solid. LC/MS (ESI+) m/z=225.9 (M+H). Calculated for C9H8BrNO 225.0.

reactant | (E)-8-benzylidene-3-bromo-5,6,7,8-tetrahydroquinoline | 0.82 g | C(/C1=CC=CC=C1)=C\1/CCCC=2C=C(C=NC12)Br | C16H14BrN
reactant | triphenylphosphine | 3.93 mmol, 1.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | MeOH | 40 mL | CO | CH4O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-6,7-dihydroquinolin-8(5H)-one | 2.04 mmol, 0.460 g, 75% yield | BrC=1C=NC=2C(CCCC2C1)=O | C9H8BrNO
